US08877742B2
tert-butyl 9-bromo-3,4-dihydrobenzo[b][1,4]oxazepine-5(2H)-carboxylate
To a solution of tert-butyl (3-bromo-2-hydroxyphenyl)carbamate (D52) (3 g, 10.41 mmol) in acetone (30 mL) was added 1,3-dibromopropane (3.17 mL, 31.2 mmol), K2CO3 (11.51 g, 83 mmol) and the mixture stirred at 75° C. for 16 hours. The reaction was then cooled to RT, filtered, the filtrate was evaporated. The residue was then purified on silica eluting with a gradient of 0-10% ethyl acetate in cyclohexane to afford the title compound (2.2 g). LCMS (A): m/z (M+H)+328/330, C14H18BrNO3 requires 327/329 (acidic).

reactant | tert-butyl (3-bromo-2-hydroxyphenyl)carbamate | 10.41 mmol, 3 g | BrC=1C(=C(C=CC1)NC(OC(C)(C)C)=O)O | C11H14BrNO3
reactant | 1,3-dibromopropane | 31.2 mmol, 3.17 mL | BrCCCBr | C3H6Br2
reactant | K2CO3 | 83 mmol, 11.51 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | tert-butyl 9-bromo-3,4-dihydrobenzo[b][1,4]oxazepine-5(2H)-carboxylate | 2.2 g | BrC1=CC=CC2=C1OCCCN2C(=O)OC(C)(C)C | C14H18BrNO3
